US04382090
A reaction mixture was prepared from 22.4 g. of N,N-dimethylcyanoacetamide, 21 ml. of liquid hydrogen sulfide and 1 ml. of triethylamine. The reaction mixture was placed in an autoclave and the autoclave shaken at about 55° C. for about 12 hours. The reaction mixture was taken from the autoclave and the volatile constituents removed by evaporation. Ethanol was added to the residue, thus producing a crystalline solid. The solid was filtered and the filter cake washed with cold ethanol. Twenty-one grams of 3-amino-3-thioxo-N,N-dimethylpropanamide were obtained melting at 111°-114° C. The compound had the following nmr (CDCl3 +DMSOd6)δ: 3.07 (doublet, 6H); 3.82 (singlet, 2H); 9.1 (very broad, 1H).

reactant | N,N-dimethylcyanoacetamide | CN(C(CC#N)=O)C | C5H8N2O
reactant | hydrogen sulfide | S | H2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-amino-3-thioxo-N,N-dimethylpropanamide | Twenty-one grams | NC(CC(=O)N(C)C)=S | C5H10N2OS
